US06599929B2
Preparation of N-(1-Benzoyl-1H-indole-5-yl)-methanesulfonamide
1-benzoyl-5-amino-1H-indole (25 mg, 0.106 mmol) was dissolved in dichloromethane (1.0 ml) at room temperature and mesyl chloride (0.01 ml. 0.116 mmol) and triethylamine (0.016 ml, 0.115 mmol) were added. The solution was stirred at room temperature for 30 minutes to complete the reducing reaction. After pouring water (2 ml), dichloromethane layer was separated, washed with brine, dried over anhydrous magnesium sulfate and then, purified through flash column chromatography (an eluent:ethyl acetate/n-hexane=1/2, v/v). As a result, the present compound (20 mg, productive yield 60%) was obtained.

reactant | 1-benzoyl-5-amino-1H-indole | 0.106 mmol, 25 mg | C(C1=CC=CC=C1)(=O)N1C=CC2=CC(=CC=C12)N | C15H12N2O
reactant | mesyl chloride | 0.116 mmol, 0.01 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 0.115 mmol, 0.016 ml | C(C)N(CC)CC | C6H15N
reactant | water | 2 ml | O | H2O
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | N-(1-Benzoyl-1H-indole-5-yl)-methanesulfonamide | yield 60% | C(C1=CC=CC=C1)(=O)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C | C16H14N2O3S
